US08877742B2
N-(3-(1,2-dimethylindolin-6-yl)-1-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-methyl-1H-pyrazole-3-sulfonamide
4-Bromo-3-(1,2-dimethylindolin-6-yl)-1-methyl-1H-pyrrolo[2,3-b]pyridine (541 mg, 1.519 mmol), 1-methyl-1H-pyrazole-3-sulfonamide (D94) (367 mg, 2.278 mmol), Pd2(dba)3 (139 mg, 0.152 mmol), xantphos (176 mg, 0.304 mmol) and cesium carbonate (1484 mg, 4.56 mmol) charged into a microwave vial and suspended in 1,4-dioxane (8.0 mL). The reaction mixture was degassed under nitrogen for 10 mins before subjected to microwave heating at 120° C. for 30 mins. The reaction mixture was then partitioned between ethyl acetate/water (ca. 30 mL each). Aqueous layer was separated and re-extracted with ethyl acetate (ca. 25 mL twice). The combined organic layers were dried over MgSO4 and solvent removed in vacuo. The residue was purified using chromatography on silica, eluting with a gradient of 0-100% ethyl acetate in cyclohexane and followed by another purification on silica, eluting with a gradient of 0-40% ethyl acetate in DCM to afford title compound (205 mg). LCMS (A): m/z (M+H)+ 437, C22H24N6O2S requires 436 (acidic).

reactant | 4-Bromo-3-(1,2-dimethylindolin-6-yl)-1-methyl-1H-pyrrolo[2,3-b]pyridine | 1.519 mmol, 541 mg | BrC1=C2C(=NC=C1)N(C=C2C2=CC=C1CC(N(C1=C2)C)C)C | C18H18BrN3
reactant | 1-methyl-1H-pyrazole-3-sulfonamide | 2.278 mmol, 367 mg | CN1N=C(C=C1)S(=O)(=O)N | C4H7N3O2S
reactant | xantphos | 0.304 mmol, 176 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 4.56 mmol, 1484 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.152 mmol, 139 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(1,2-dimethylindolin-6-yl)-1-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-methyl-1H-pyrazole-3-sulfonamide | 205 mg | CN1C(CC2=CC=C(C=C12)C1=CN(C2=NC=CC(=C21)NS(=O)(=O)C2=NN(C=C2)C)C)C | C22H24N6O2S
